US06982259B2
To a mixture of (3R)-1-t-butoxycarbonyl-3-hydroxypiperidine (4.10 g, 17.8 mmol), 4-(imidazol-1-yl)phenol (4.4 g, 1.5 eq.), triphenylphosphine (1.5 eq., 7.10 g), DMF (80 mL) was added DEAD (1.5 eq., 4.33 mL). The resulting reaction mixture were stirred at room temperature for two days. The solvent was evaporated, the residue was diluted with ethyl acetate, washed with 1N NaOH (45 mL×3), water and brine, and evaporated in vacuo. Purification by flash column chromatography on silical gel with gradient 1-3% methanol in CH2Cl2 gave (3R)-1-t-butoxycarbonyl-3-[4-(imidazol-1-yl)phenoxy]piperidine (420 mg, 1.19 mmol), which was treated with trifluoroacetic acid/CH2Cl2 (1:1) from 0° C. to ambient temperature for 2 hours. The solvents were evaporated. The residue was diluted with CH2Cl2, and washed with 1N HCl (10 mL). The aqueous phase was extracted with CH2Cl2 to remove by-product. The aqueous phase was re-adjusted to pH 9.5 to 10.0 with 1N NaOH. Extraction with CH2Cl2 (60 mL×3) and evaporation of the solvent in vacuo gave (3R)-3-[4-(imidazol-1-yl)phenoxy]piperidine (62 mg) as an oil.

reactant | (3R)-1-t-butoxycarbonyl-3-hydroxypiperidine | 17.8 mmol, 4.10 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)O | C10H19NO3
reactant | 4-(imidazol-1-yl)phenol | 4.4 g, 1.5 eq. | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | triphenylphosphine | 7.10 g, 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 4.33 mL, 1.5 eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (3R)-1-t-butoxycarbonyl-3-[4-(imidazol-1-yl)phenoxy]piperidine | 1.19 mmol, 420 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)OC1=CC=C(C=C1)N1C=NC=C1 | C19H25N3O3
